US07524840B2
To a mixture of 3.0 g (0.0094 mole) of 5-(2-chlorophenyl)-1,3-dihydro-7-fluoro-8-methoxy-2H-1,4-benzodiazepin-2-one (Ia), 11.8 mL of ethyl diisopropyl amine, 4.62 g of 1,2,4-triazole and 45 mL of tetrahydrofuran at 0° C., was added 1.575 mL of phosphorous oxychloride. After 20 minutes, the cooling bath was removed, and the mixture was stirred at room temperature for another 60 minutes. Then, 17 mL of 4.37 M sodium methoxide in methanol solution was added to the reaction mixture. After stirring for 2 hours, another 5 mL of sodium methoxide solution was added, and the mixture stirred overnight. The mixture was then partitioned between ethyl acetate and water. The ethyl acetate layer was washed successively with water and brine, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure to yield 3.2 g of 5-(2-chlorophenyl)-7-fluoro-2,8-dimethoxy-3H-1,4-benzodiazepine (intermediate Va), which was of sufficient purity to use in the next step.

reactant | 5-(2-chlorophenyl)-1,3-dihydro-7-fluoro-8-methoxy-2H-1,4-benzodiazepin-2-one | 0.0094 mole, 3.0 g | ClC1=C(C=CC=C1)C1=NCC(NC2=C1C=C(C(=C2)OC)F)=O | C16H12ClFN2O2
reactant | ethyl diisopropyl amine | 11.8 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 1,2,4-triazole | 4.62 g | N1N=CN=C1 | C2H3N3
reactant | phosphorous oxychloride | 1.575 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | tetrahydrofuran | 45 mL | O1CCCC1 | C4H8O
product | 5-(2-chlorophenyl)-7-fluoro-2,8-dimethoxy-3H-1,4-benzodiazepine | 3.2 g | ClC1=C(C=CC=C1)C1=NCC(=NC2=C1C=C(C(=C2)OC)F)OC | C17H14ClFN2O2
